US07943622B2
2-chlorothiazolo[4,5-b]pyridine
2-Amino-3-bromopyridine (1.0 g, 5.8 mmol) and potassium ethyl xanthate (2.22 g, 13.9 mmol) were heated to 130° C. in DMF (5 mL) overnight. After cooling to rt, the reaction mixture was diluted with 1 M aqueous HCl (30 mL) and stirred at rt for an additional 1 h. The resulting solid was collected by filtration, washed with water (2×), and air-dried. The material was suspended in CH2Cl2 (2 mL) and sulfuryl chloride (5 mL) was added. After 2 h, water (30 mL) was added to decompose the excess sulfuryl chloride. The reaction mixture was diluted with EtOAc (30 mL) and washed with water (2×) and brine. The EtOAc layer was discarded. The combined aqueous washes were brought to pH ˜12 with 1 N aqueous NaOH and were extracted with EtOAc (3×). The combined EtOAc extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 0.933 g (95%) of the title compound as a yellow solid. LC-MS: RT=5.81 min., [M+H]+=171.1.

reactant | 2-Amino-3-bromopyridine | 5.8 mmol, 1.0 g | NC1=NC=CC=C1Br | C5H5BrN2
reactant | potassium ethyl xanthate | 13.9 mmol, 2.22 g | O(C(=S)[S-])CC.[K+]
reactant | HCl | 1 M, 30 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-chlorothiazolo[4,5-b]pyridine | ClC=1SC=2C(=NC=CC2)N1 | C6H3ClN2S
